US09238640B2
Preparation of 2-(4-((3R,5S)-4-Acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one
A mixture of 2-amino-4,6-dimethoxy-nicotinamide (0.25 g, 1.26 mmol), 4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-benzaldehyde (0.43 g, 1.64 mmol), p-toluenesulfonic acid monohydrate (0.53 mg, 2.77 mmol) and sodium bisulfite (0.45 g, 2.52 mmol) in N,N-dimethylacetamide (5.0 mL) was stirred at 135° C. under N2 for 16 hours and then cooled to room temperature. The mixture was concentrated to dryness under reduced pressure. Water (40 mL) was added to the residue and stirred for 0.5 hours. The precipitate was filtered and the solid was rinsed with water and dried over Na2SO4. The crude solid was purified by column chromatography (silica gel 230-400 mesh; eluting with 2.5% methanol in dichloromethane) to afford the title compound as yellow solid. Yield: 90 mg (16.3%). MP 279-279.8° C. 1H NMR (400 MHz, CDCl3): δ 10.18 (s, 1H), 8.14 (d, J=8.8 Hz, 2H), 6.99 (d, J=8.8 Hz, 2H), 6.20 (s, 1H), 4.78 (bs, 1H), 4.12 (s, 3H), 4.02 (s, 3H), 3.70 (d, J=12.0 Hz, 2H) 3.11 (d, J=10 Hz, 2H), 2.18 (s, 3H), 1.40 (bs, 6H).

reactant | 2-amino-4,6-dimethoxy-nicotinamide | 1.26 mmol, 0.25 g | NC1=C(C(=O)N)C(=CC(=N1)OC)OC | C8H11N3O3
reactant | 4-(4-acetyl-3,5-dimethyl-piperazin-1-yl)-benzaldehyde | 1.64 mmol, 0.43 g | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=O)C=C1)C | C15H20N2O2
reactant | p-toluenesulfonic acid monohydrate | 2.77 mmol, 0.53 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bisulfite | 2.52 mmol, 0.45 g | S([O-])(O)=O.[Na+]
solvent | N,N-dimethylacetamide | 5.0 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-((3R,5S)-4-Acetyl-3,5-dimethylpiperazin-1-yl)phenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one | C(C)(=O)N1[C@@H](CN(C[C@@H]1C)C1=CC=C(C=C1)C=1NC(C2=C(N1)N=C(C=C2OC)OC)=O)C | C23H27N5O4
